Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lumbar Wound Drainage, Headache/Neck Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old female with a history of psoriatic 
arthritis and chronic low back pain, s/p lumbar fusion in ___, 
now ___ s/p L3-4 laminectomy & discectomy at ___ 
___ (Dr. ___ presenting with fluid leaking from wound 
and occipital headache & neck pain. Surgery was complicated by a 
durotomy. She was maintained on flat bedrest with a lumbar
drain. On POD#4 she started to complain of headache & neck pain. 
No further workup was performed and she was discharged home the 
following day. She was seen in the ___ ED on ___ for 
similar symptoms. Head CT was performed to evaluate for sequelae 
of overdraining; no SDH or pneumocephalus was noted. She was 
discharged home and started on Prednisone per her Neurosurgeon 
at ___ the following day. She reports some improvement in pain 
in the following days, with return of headache and neck pain 
yesterday evening. No new trauma. Patient reports pain in 
midline cervical spine with radiation down to shoulders and up 
to occiput. States headache/neck pain are worse with standing or 
leaning forward. Not improved with lying down; in fact, patient 
reports similar pain with lying in bed. Denies blurry/double 
vision. Denies new numbness/tingling/weakness in arms or legs. 
No pain radiating into arms. No urinary/fecal incontinence or 
saddle anesthesia. Mild constipation. No recent trauma or 
injury. 
 
Past Medical History:
Psoriatic Arthritis
Chronic LBP

PSHx:
L3-4 Laminectomy & Discectomy (___) 
Lumbar Fusion ___, ___

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ON ADMISSION:
O: T: 97.0   BP: 144/87    HR: 85    RR: 18    O2Sat: 100% RA

Gen: Well-appearing. No acute distress. 
Neck: Supple. Non-tender, no meningismus. 
Extremities: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Motor:
      D   B   T   WE  Int  Grip | IP  Q   H   AT   ___  G
R     ___   5   5    5      ___   5    5    5
L     ___   5   5    5      ___   5    5    5

Sensation: Intact to light touch throughout. 

Reflexes: B   T   Br  |  Pa  Ac
Right     2+  2+  2+     2+  2+     
Left      2+  2+  2+     2+  2+ 

Toes downgoing bilaterally

Lumbar incision: Well-healing, sutures in place. Very mild soft
tissue swelling at superior right pole of wound. No significant
erythema. Unable to express fluid with deep palpation. 

______________________

On Discharge: 

Neurologically stable from admission. 
Lumbar wound remains well-healed, sutures in place, no 
surrounding erythema. Mild bogginess at superior pole of wound, 
stable from admission. No fluid drainage. 
 
Pertinent Results:
MRI L-Spine (___):
1. Postsurgical changes status post posterior spinal fusion 
bilateral 
laminectomies of L4 and L5 with a large fluid collection within 
the 
postsurgical bed, spanning from L2-L3 to L5-S1, which may 
represent a post-operative fluid collection or 
pseudomeningocele.  This fluid collection extends into the 
epidural space at L2-L3 and L3-L4, causing severe spinal canal 
stenosis and clumping of the nerve roots of the cauda equina. 
2. Small fluid collections scattered along the posterior aspects 
of the upper lumbar and lower thoracic spinal canal and 
partially visualized along the anterior aspect of the spinal 
canal at T10-T11, which may be epidural or subdural in location. 
 MRI of the thoracic spine is recommended for further 
evaluation. 
3. There is mild loss of height of the L1 vertebral body with T1 
and T2 
hypointense signal within the L1 vertebral body.  While this 
finding is often seen in the setting of prior vertebroplasty, 
there are no changes in the pedicles to suggest this procedure.  
Correlation with prior imaging and clinical history is 
suggested. 

MRI T-Spine (___)
1. Study is mildly degraded by motion. 
2. Multiloculated epidural fluid collection with dural and 
septation 
enhancement extends along the posterior thoracic spinal canal 
from T5-6 
through the imaged upper lumbar spine. 
3. Severe spinal canal narrowing at T6-7 from this fluid 
collection, as 
described above. 
4. Thoracic spinal cord maintains normal intrinsic signal 
intensity and 
morphology, with no evidence of abnormal postcontrast 
enhancement. 
5. L1 vertebral body signal changes are stable compared to prior 
examination. Findings suggestive of vertebroplasty postoperative 
change, with differential consideration of bone island, or 
osteoblastic metastatic lesion. Recommend clinical correlation 
and correlation with prior imaging and clinical history. 
6. Partially visualized mild compression deformity of the C7 
vertebral body. 
 
 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ for further 
evaluation of drainage from her lumbar wound and occipital 
headache. She remained neurologically and hemodynamically stable 
throughout hospitalization. CT Myelogram was ordered on 
admission to further evaluate for CSF leak. Interventional 
Radiology declined to perform this exam given risk of infection 
in new post-operative wound. On ___ she underwent a MRI T- & 
L-Spine which demonstrated diffuse, non-enhancing fluid 
collection. No drainage was ever visualized from her surgical 
wound. She remained afebrile with no evidence of wound 
infection. Multiple discussions were had with the patient's 
primary Neurosurgeon at ___. Lumbar Drain 
placement was discussed at length, and ultimately deferred given 
the patient's vague, but improving symptoms. She was discharged 
home in stable condition on ___ with instructions to 
follow-up with her Neurosurgeon for suture removal and 
re-evaluation. She understands to return sooner with any 
recurrent symptoms, concern for infection, or any new neurologic 
changes. 
 
Medications on Admission:
Oxycontin 15mg PO BID
Oxycodone 5mg q4h PRN pain

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN Pain/Fever 
2. Cyclobenzaprine 10 mg PO TID:PRN Muscle Spasm 
RX *cyclobenzaprine 10 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
Available OTC - Ask your Pharmacist 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
4. Senna 8.6 mg PO QHS 
Available OTC - Ask your Pharmacist 
5. OxyCODONE SR (OxyconTIN) 15 mg PO Q12H 
RX *oxycodone 15 mg 1 tablet(s) by mouth twice a day Disp #*14 
Tablet Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN Breakthrough 
Pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post-operative thoracolumbar fluid collection
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Follow-up with your Neurosurgeon at ___ 
as previously scheduled for wound evaluation and removal of 
sutures.

Activity:
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
- You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
- No driving while taking any narcotic or sedating medication. 

Medications
- Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by your Neurosurgeon. 

- You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
- You may continue your regimen of Oxycontin & Oxycodone (for 
breakthrough pain) as previously prescribed. Additional 
medication adjustments/prescriptions to be completed by your 
Neurosurgeon or PCP. 

When to Call Your Doctor:
- Severe pain, swelling, redness or drainage from the incision 
site. 
- Fever greater than 101.5 degrees Fahrenheit
- New weakness or changes in sensation in your arms or legs
 
Followup Instructions:
___